US07405299B2
2-Ethoxycarbonylmethoxy-5-iodo-benzoic acid methyl ester
Reflux a mixture of 2-hydroxy-5-iodo-benzoic acid methyl ester (TCI; 5.5 g, 20 mmol) and ethyl bromoacetate (Aldrich; 6.7 g, 40 mmol) in acetone (60 mL) in the presence of potassium (5.5 g, 40 mmol) for 3 h. Filter out the solid and evaporate acetone to give a white residue. Dissolve the residue in ethyl acetate and wash with brine. Evaporate the solvent in vacuum to give final product as a white solid (7 g, 96%). MS (electrospray, m/z) 365 (M+1). 1H NMR (400 MHz, CDCl3) δ 8.1 (d, J=2.0 Hz, 1H), 7.70 (dd, J=8.8, 2.8 Hz, 1H), 6.6 (d, J=8.8 Hz, 1H), 4.68 (s, 2H), 4.3 (q, J=6.8 Hz, 2H), 3.9 (s, 1H), 1.3 (t, J=6.8 Hz, 3H).

reactant | 2-hydroxy-5-iodo-benzoic acid methyl ester | 20 mmol, 5.5 g | COC(C1=C(C=CC(=C1)I)O)=O | C8H7IO3
reactant | ethyl bromoacetate | 40 mmol, 6.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium | 40 mmol, 5.5 g | [K] | K
solvent | acetone | 60 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxycarbonylmethoxy-5-iodo-benzoic acid methyl ester | 7 g, 96% | COC(C1=C(C=CC(=C1)I)OCC(=O)OCC)=O | C12H13IO5
